US09145429B2
A mixture of 6-chloro-5-cyclopropyl-2-(4-oxopentyloxy)nicotinonitrile (360 mg, 1.29 mmol), compound benzo[c][1,2]oxaborole-1,5(3H)-diol (232 mg, 1.55 mmol) and Cs2CO3 (505 mg, 1.55 mmol) in DMSO (20 mL) was stirred at 40° C. overnight. The mixture was diluted by water, extracted by EtOAc, the separated organic layer was concentrated in vacuo and the residue was purified by column chromatography (Petroleum ether:EtOAc=10:1-3:1) to afford 5-cyclopropyl-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)nicotinonitrile. (200 mg, 40%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 9.20 (s, 1H), 7.86 (s, 1H), 7.75 (d, J=8.0, 1H), 7.24 (d, J=2.0, 1H), 7.16 (dd, J=8.0, 2.0, 1H), 4.97 (s, 2H), 3.94 (t, J=7.8, 2H), 3.29 (t, J=7.8, 2H), 2.02 (m, 4H), 1.65 (t, J=7.8, 2H), 0.92 (m, 2H), 0.77 (m, 2H).

reactant | 6-chloro-5-cyclopropyl-2-(4-oxopentyloxy)nicotinonitrile | 1.29 mmol, 360 mg | ClC1=NC(=C(C#N)C=C1C1CC1)OCCCC(C)=O | C14H15ClN2O2
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | 1.55 mmol, 232 mg | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
reactant | Cs2CO3 | 1.55 mmol, 505 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 5-cyclopropyl-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)nicotinonitrile | C1(CC1)C=1C(=NC(=C(C#N)C1)OCCCC(C)=O)OC1=CC2=C(B(OC2)O)C=C1 | C21H21BN2O5
